US06825360B1
(c) 6-Bromo-4,4,7-trimethylthiochroman
6.2 g (32.2 mmol) of 4,4,7-trimethylthiochroman, 40 ml of dichloromethane and 90 mg of iron powder are introduced into a three-necked flask. 1.65 ml (32.2 mmol) of bromine are added and the mixture is stirred at room temperature for two hours. The reaction medium is poured into sodium bicarbonate solution and extracted with dichloromethane, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with heptane. 5.9 g (67%) of the bromo derivative are collected in the form of a pale yellow oil.

reactant | 4,4,7-trimethylthiochroman | 32.2 mmol, 6.2 g | CC1(CCSC2=CC(=CC=C12)C)C | C12H16S
reactant | bromine | 32.2 mmol, 1.65 ml | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | iron | 90 mg | [Fe] | Fe
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6-Bromo-4,4,7-trimethylthiochroman | BrC=1C=C2C(CCSC2=CC1C)(C)C | C12H15BrS
